Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___ - 1. Aortic valve replacement with a size 23-mm 
___ Magna-Ease tissue valve. 2. Coronary artery 
bypass graft times 1; saphenous vein graft to right coronary 
artery.

 
History of Present Illness:
___ year old male with severe aortic stenosis demonstrated by 
echocardiogram performed ___ with ___ 0.6-0.8 cm2 and 
peak/mean gradients of 141/76 mmHg. He was also noted to have 
mild mitral stenosis with calcified mitral apparatus and severe 
mitral annular calcification. He reports shortness of breath 
with any activity, especially when climbing one flight of stairs 
and is relieved after ___ minutes of rest. He also describes 
bilateral lower extremity edema half way up to knees with left 
greater than right. He reports difficulty
breathing when first rising in the morning which is resolved 
with use of his inhaler. He was referred for cardiac 
catheterization. He was found to have coronary disease upon 
cardiac catheterization. He is now being referred to cardiac 
surgery for revascularization and an aortic valve replacement. 

 
Past Medical History:
Aortic stenosis
Heart Murmur
Hypertension
COPD
Obesity
Renal insufficiency (baseline crt 1.1)
Gout
History of anemia
Mild History ofcolitis
Polymyalgia rheumatica
Low back pain
Elevated PSA
History of basal cell cancer lesion removal ___, again in ___, 
Osteoarthritis
Pilonidal cyst x2
Mitral stenosis

 
Social History:
___
Family History:
Premature coronary artery disease- Mother with
valve replacement in her ___ from which she "never recovered";
sister with pacemaker

 
Physical Exam:
Pulse:81 Resp:18  O2 sat:93/RA
B/P  Right:130/70    Left:135/67
Height:5'8.5"     Weight:240 lbs

General: NAD, overweight
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade _3/6 SEM_
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x], obese
Extremities: Warm [x], well-perfused [x]  Edema [x] 1+
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2+  Left:2+
DP           Right: 2+  Left:2+
___           Right: 2+  Left:2+
Radial       Right: 2+  Left:2+

Carotid Bruit        Right:    Left:
radiation of cardiac murmur

 
Pertinent Results:
___ ECHO
PREBYPASS 
Preserved LV systolic funciton with LVEF > 55% and not SWMA. 
Severe AS with valve area < 1.0 cm2 and severe calcification of 
mitral valve - aortic valve interannular fibrosa with 
significant MV inflow obstruction. MV area by pressure half time 
is around 1.3-1.5 cm2, MVA by PISA is 1.0 cm2. Mean gradient is 
___ mmHg and peak grad is ___ mmHg for Mitral inflow 
consistent with severe MS. ___ left atrium is markedly dilated. 
No thrombus is seen in the left atrial appendage. There is 
severe symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets are severely thickened/deformed. There is severe 
aortic valve stenosis (valve area 0.8-1.0cm2). The mitral valve 
leaflets are severely thickened/deformed. There is moderate 
valvular mitral stenosis (area 1.0-1.5cm2). There is at least 
moderate functional mitral stenosis (mean gradient ___ mmHg) due 
to mitral annular calcification. There is no pericardial 
effusion. Normal TV and PV. Intact IAS. Normal coronary sinus. 

POSTBYPASS:
S/P AVR + CABG. Normally functioning AV prosthesis. No sig AS or 
AI. Otherwise Unchanged.  

___ 04:41AM BLOOD WBC-6.6 RBC-3.24* Hgb-10.0* Hct-30.8* 
MCV-95 MCH-30.9 MCHC-32.5 RDW-13.9 Plt ___
___ 08:55AM BLOOD WBC-7.7 RBC-3.56* Hgb-10.9* Hct-34.1* 
MCV-96 MCH-30.5 MCHC-31.9 RDW-13.7 Plt ___

___ 04:47AM BLOOD WBC-9.9 RBC-3.62* Hgb-10.9* Hct-34.6* 
MCV-96 MCH-30.0 MCHC-31.3 RDW-13.7 Plt ___
___ 04:41AM BLOOD Glucose-104* UreaN-58* Creat-1.4* Na-138 
K-3.4 Cl-100 HCO3-27 AnGap-14
___ 08:55AM BLOOD Glucose-95 UreaN-59* Creat-1.5* Na-141 
K-4.8 Cl-105 HCO3-22 AnGap-19
___ 04:47AM BLOOD Glucose-100 UreaN-58* Creat-1.5* Na-139 
K-4.0 Cl-101 HCO3-24 AnGap-18
___ 04:41AM BLOOD ___ PTT-31.5 ___
___ 09:00AM BLOOD ___
___ 02:29AM BLOOD ___ PTT-30.9 ___
 
Brief Hospital Course:
The patient was brought to the operating room on ___ where 
the patient underwent an aortic valve replacement and coronary 
artery bypass grafting. Please see operative note for details. 
Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. POD 2 found the 
patient extubated, alert and oriented and breathing comfortably. 
He did need aggressive pulmonary toilet and was kept in the unit 
for several days post op due to respiratory issues. He did use 
BIPAP at night and will need a sleep study as an outpatient to 
further assess OSA. The patient was neurologically intact and 
hemodynamically stable, weaned from inotropic and vasopressor 
support. Beta blocker was initiated and the patient was gently 
diuresed toward the preoperative weight. He did have post 
operative ATN and peak creatinine was 2.4. His baseline was 1.1 
and creatinine was 1.5 decreasing towards his baseline at the 
time of discharge. The patient was transferred to the telemetry 
floor for further recovery. Chest tubes and pacing wires were 
discontinued without complication. he developed post-operative 
atrial fibrillation and was treated with amiodarone and coumadin 
tehrpay. He developed serous drainage from his mid sternal pole 
and Kefzol was added.  He was afebrile and WBC was normal at the 
time discharge with scant old bloody sternal drainage from the 
distal pole (mid sternal drainage had resolved). The patient was 
evaluated by the physical therapy service for assistance with 
strength and mobility.  By the time of discharge on POD 9 the 
patient was ambulating freely, the wound was healing and pain 
was controlled with oral analgesics.  The patient was discharged 
to home in good condition with appropriate follow up 
instructions.
 
Medications on Admission:
ALLOPURINOL ___ mg Daily
ATENOLOL  25 mg Daily
SYMBICORT 80 mcg-4.5 mcg/actuation HFA Aerosol Inhaler - two
puffs inhaled twice a day
FELODIPINE 10 mg Daily
___ NATURAL JOINT Dosage uncertain
HYDROCHLOROTHIAZIDE 25 mg Daily
IPRATROPIUM-ALBUTEROL 18 mcg-103 mcg (90 mcg)/actuation Aerosol 
-
two puffs inhaled four times a day as needed
LISINOPRIL 40 mg Daily
QUININE SULFATE [QUALAQUIN] 324 mg once a day as needed for leg
cramps
ASPIRIN 81 mg Daily
MAGNESIUM 250 mg Daily
MULTIVITAMIN Dosage uncertain

 
Discharge Medications:
1. Outpatient Lab Work
Labs: ___
Coumadin for post-op AFib
Goal INR ___
First draw day after discharge
Then please do INR checks ___, and ___ for 2 
weeks then decrease as directed by Dr. ___ ___
Results to fax ___
2. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
3. amiodarone 200 mg Tablet Sig: One (1) Tablet PO once a day: 
for 7 days then 200mg ongoing .
Disp:*60 Tablet(s)* Refills:*2*
4. felodipine 2.5 mg Tablet Extended Release 24 hr Sig: Four (4) 
Tablet Extended Release 24 hr PO DAILY (Daily).  
5. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for 
sob/wheezing.  
6. furosemide 40 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) for 10 days: then resume Hydrochlorothyazide.
Disp:*20 Tablet(s)* Refills:*0*
7. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).
Disp:*90 Tablet(s)* Refills:*2*
8. fluticasone-salmeterol 100-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
9. ipratropium bromide 17 mcg/actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation QID (4 times a day).  
10. Keflex ___ mg Capsule Sig: One (1) Capsule PO four times a 
day for 7 days.
Disp:*28 Capsule(s)* Refills:*0*
11. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
12. warfarin 2.5 mg Tablet Sig: daily per INR Tablet PO once a 
day: Indication Afib
goal INR 2.0-2.5.
Disp:*45 Tablet(s)* Refills:*2*
13. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
14. potassium chloride 10 mEq Tablet Extended Release Sig: Two 
(2) Tablet Extended Release PO DAILY (Daily) for 10 days: while 
on lasix.
Disp:*20 Tablet Extended Release(s)* Refills:*0*
15. Ultram 50 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease, Severe Aortic Stenosis, post-op atrial 
fibrillation

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
___ Edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

Coumadin for post-op AFib
Goal INR ___
First draw ___
Then please do INR checks ___, and ___ for 2 
weeks then decrease as directed by Dr. ___ ___
Results to fax ___

 
Followup Instructions:
___